2183-09-04 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2183-9-3**] 10:12 AM
 BLOOD CULTURED - At [**2183-9-3**] 11:12 AM
 ERCP - At [**2183-9-3**] 04:00 PM
   .
   --got ERCP: Biliary dilation with CBD measuring 8mm
   No definite stone seen, though the portion of the CBd posterior to the
   cystic duct was not well seen.
   Due to concern of cholangitis and current medical condition,
   sphincterotomy and duct sweep were not performed
   A 10F 9cm Cotton [**Doctor Last Name 6355**] biliary stent was placed with excellent drainage
   post placement
   RECS: Juices today when awake, alert and at baseline
   If juices tolerated, advance diet as tolerated.
   Continue current antibiotic regimen
   Follow-up with Dr. [**Last Name (STitle) 542**]
   Repeat ERCP in 4 weeks for stent removal and reassessment of biliary
   tree.
   --ECHO= EF 40-50%, hypokinesis of inf. and post. walls, PCWP >18mmHg
   --reached goal of UOP 50cc/hr
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2183-9-4**] 06:12 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2183-9-3**] 11:56 PM
   Morphine Sulfate - [**2183-9-4**] 04:17 AM
   Heparin Sodium (Prophylaxis) - [**2183-9-4**] 06:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-9-4**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.5
   HR: 82 (67 - 82) bpm
   BP: 161/70(92) {126/48(68) - 169/108(118)} mmHg
   RR: 14 (12 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,946 mL
                                                                    710 mL
   PO:
             TF:
   IVF:
                                                                  2,646 mL
                                                                    710 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  1,625 mL
                                                                    580 mL
   Urine:
                                                                    875 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,321 mL
                                                                    130 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, 3L
   SpO2: 99%
   ABG: 7.39/44/121/27/1
   Physical Examination
   General: Alert, mildly disoriented
   HEENT: Sclera anicteric, dry MM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation anteriorly, no wheezes, rales, ronchi
   CV: RRR, normal s1/s2, soft gr II/VI SEM over LUSB
   Abdomen: soft, mild diffuse tenderness to palpation, bowel sounds
   present, no guarding
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   135 K/uL
   11.0 g/dL
   112 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.7 mEq/L
   25 mg/dL
   110 mEq/L
   142 mEq/L
   32.7 %
   17.9 K/uL
        [image002.jpg]
                             [**2183-9-3**]  08:05 AM
                             [**2183-9-3**]  11:34 AM
                             [**2183-9-3**]  10:31 PM
                             [**2183-9-4**]  04:01 AM
   WBC
   22.0
   16.1
   17.9
   Hct
   32.5
   31.1
   32.7
   Plt
   141
   123
   135
   Cr
   1.0
   0.8
   0.8
   TCO2
   28
   Glucose
   134
   149
   112
                                                                [**2183-9-4**]
                                                                    04:16a
   _______________________________________________________________________
   Lactate:1.1
   Comments:
   Lactate: Green Top Tube
                                                                [**2183-9-4**]
                                                                    04:01a
   Ca: 8.2 Mg: 2.1 P: 2.1
   ALT: 59
   AP: 66
   Tbili: 1.1
   Alb:
   AST: 49
   LDH:
   Dbili:
   TProt:
   [**Doctor First Name 293**]: 1234
   Lip: 2947
   PT: 15.2
   PTT: 28.4
   INR: 1.3
                                                                [**2183-9-3**]
                                                                    10:31p
   Ca: 7.9 Mg: 2.2 P: 1.9
   ALT: 63
   AP: 62
   Tbili: 0.9
   Alb:
   AST: 56
   LDH:
   Dbili:
   TProt:
   [**Doctor First Name 293**]: 1288
   Lip: 3700
   Comments:
   Lipase: Verified By Dilution
   PT: 15.8
   PTT: 32.2
   INR: 1.4
   -UCx/BCx pending
   -CXR: inc hilar fullness, small left effusion
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
   .
   89 y/o F with PMHx of Afib, HTN who presents with gallstone
   pancreatitis.
   .
   # Gallstone Pancreatitis: p/w with gallstone pancreatitis, AG of 13 and
   lactate of 2.6.  She is currently sating well on 2L and ABG without
   significant acidosis.  Pt with at least 2 ransons criteria on admission
   and plan for ERCP possibly followed by cholecystectomy.  Pt received
   aggressive fluid resuscitation. EF noted 40-50%. Lactate now 1.1. At 48
   hrs will note Ransons (Hct <10%, BUN +5, base def >4, Ca <8, PaO2 <60,
   fluid sequest >6L)
   - Maintenance IVF at 80cc/hr with goal UOP>50 cc/hr, until taking POs
   since EF 40-50
   - Unasyn 3grams q6hr
   - trend LFTs and lytes/AG [**Hospital1 **]
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 91**] recs & ERCP recs
   - f/u blood & urine Cx
   .
   # Afib: Pt with underlying Afib, not anti-coagulated per records.
   Initially, holding on home meds  for now given pancreatitis. Home meds:
   Digoxin 125 mcg daily, Atenolol 25mg daily
   - start Metoprolol 5mg IV q6h
   - resume home meds once tolerating POs
   .
   # HTN/hyperlipid: holding home meds: Digoxin 125 mcg daily, Atenolol
   25mg daily, Isosorbide Mononitrate SR 60mg daily, Lipitor 10mg daily,
   Vasotec 5mg daily
   - resume meds once tolerating POs
   .
   # Anion gap: Pt initially with mildly elevated AG with lactate of 2.6.
   She is at risk for severe lactic acidosis in setting of pancreatitis.
   Gap closed is now 5, lactate 1.1
   - trend lytes in AM
   .
   # LBBB: Pt denying any symptoms of CP or SOB but unclear if this is new
   or old. In the absence of symptoms, would hold off on cycling CE
   - monitor for symptoms
   .
   # FEN: NPO with gentle IVF at 80cc/hr
   -replete electrolytes prn
   .
   # Prophylaxis: Heparin sc TID, famotidine IV
   .
   # Access: 2 PIVs
   .
   # Code: FULL confirmed with patient
   .
   # Communication: Patient and son (on his way in today)
   .
   # Disposition: ICU for now
   .
   ICU Care
   Nutrition: NPO with IVF
   Glycemic Control:
   Lines:
   18 Gauge - [**2183-9-3**] 07:13 AM
   20 Gauge - [**2183-9-3**] 08:01 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   Communication:  Comments: patient & son coming in today
   Code status: Full code
   Disposition: c/o when taking POs to surgery team

2183-09-05 07:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2183-9-4**] 05:49 PM
 CALLED OUT
   .
   -was supposed to be c/o surgery, but had delirium at night, given 0.5
   haldol IM x2
   -surgery felt pt had chest pain in evening: EKG stable, CE neg x1
   -had wheezy lungs, given nebs, (no h/o COPD/asthma known?) CXR:
   improved from AM
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2183-9-4**] 12:22 PM
   Ampicillin - [**2183-9-5**] 01:23 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2183-9-4**] 11:34 AM
   Famotidine (Pepcid) - [**2183-9-4**] 12:22 PM
   Heparin Sodium (Prophylaxis) - [**2183-9-4**] 02:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-9-5**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 72 (72 - 105) bpm
   BP: 146/66(86) {109/55(52) - 184/142(164)} mmHg
   RR: 17 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,957 mL
                                                                    625 mL
   PO:
             TF:
   IVF:
                                                                  2,957 mL
                                                                    625 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                    575 mL
   Urine:
                                                                  1,920 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,037 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General: Alert, mildly disoriented
   HEENT: Sclera anicteric, dry MM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation anteriorly, no wheezes, rales, ronchi
   CV: RRR, normal s1/s2, soft gr II/VI SEM over LUSB
   Abdomen: soft, mild diffuse tenderness to palpation, bowel sounds
   present, no guarding
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   150 K/uL
   11.2 g/dL
   131 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.6 mEq/L
   22 mg/dL
   109 mEq/L
   142 mEq/L
   33.6 %
   15.9 K/uL
        [image002.jpg]
                             [**2183-9-3**]  08:05 AM
                             [**2183-9-3**]  11:34 AM
                             [**2183-9-3**]  10:31 PM
                             [**2183-9-4**]  04:01 AM
                             [**2183-9-4**]  07:58 PM
                             [**2183-9-5**]  04:38 AM
   WBC
   22.0
   16.1
   17.9
   15.9
   Hct
   32.5
   31.1
   32.7
   33.6
   Plt
   141
   123
   135
   150
   Cr
   1.0
   0.8
   0.8
   0.6
   TropT
   <0.01
   TCO2
   28
   Glucose
   134
   149
   112
   131
   Other labs: PT / PTT / INR:13.2/28.3/1.1, CK / CKMB /
   Troponin-T:55/4/<0.01, ALT / AST:35/26, Alk Phos / T Bili:68/1.0,
   Amylase / Lipase:160/177, Differential-Neuts:88.5 %, Lymph:6.9 %,
   Mono:4.0 %, Eos:0.5 %, Lactic Acid:1.1 mmol/L, LDH:186 IU/L, Ca++:8.2
   mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   .
   Cardiac enzymes: neg x2
   .
   CXR (yesterday night):
   Assessment and Plan
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   .
   89 y/o F with PMHx of Afib, HTN who presents with gallstone
   pancreatitis.
   .
   # Gallstone Pancreatitis: p/w with gallstone pancreatitis, AG of 13 and
   lactate of 2.6.  She is currently sating well on 2L and ABG without
   significant acidosis.  Pt with at least 2 ransons criteria on admission
   and plan for ERCP possibly followed by cholecystectomy.  Pt received
   aggressive fluid resuscitation. EF noted 40-50%. Lactate now 1.1. At 48
   hrs will note Ransons (Hct <10%, BUN +5, base def >4, Ca <8, PaO2 <60,
   fluid sequest >6L)
   - Maintenance IVF at 80cc/hr with goal UOP>50 cc/hr, until taking POs
   since EF 40-50
   - Unasyn 3grams q6hr
   - trend LFTs and lytes/AG [**Hospital1 **]
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 91**] recs & ERCP recs
   - f/u blood & urine Cx
   .
   # Delirium: mental status changes most c/w delirium. Worse at night.
   According to son has h/o of hospital delirium that lasts for up to 2
   wks after d/c. Good relief overnight with prn haldol 0.5 IV
   - begin standing zyprexa at night, with prn during the day
   .
   # Afib: Pt with underlying Afib, not anti-coagulated per records.
   Initially, holding on home meds  for now given pancreatitis. Home meds:
   Digoxin 125 mcg daily, Atenolol 25mg daily
   - currently on metoprolol 25 PO TID, digoxin 125mcg daily
   - resume home meds once tolerating POs
   - cont tele
   .
   # HTN/hyperlipid: holding home meds: Digoxin 125 mcg daily, Atenolol
   25mg daily, Isosorbide Mononitrate SR 60mg daily, Lipitor 10mg daily,
   Vasotec 5mg daily
   - on vasotec 5 daily
   - resume other meds once tolerating POs
   .
   # Anion gap: Pt initially with mildly elevated AG with lactate of 2.6.
   She is at risk for severe lactic acidosis in setting of pancreatitis.
   Gap closed is now 5, lactate 1.1
   - trend lytes [**Hospital1 **]
   .
   # LBBB: Pt denying any symptoms of CP or SOB but unclear if this is new
   or old. Surgery team felt that she may have had mild CP yesterday
   evening, EKG and CEs negative.
   - continue tele
   .
   # FEN: NPO with gentle IVF at 80cc/hr
   -replete electrolytes prn
   .
   # Prophylaxis: Heparin sc TID, famotidine IV
   .
   # Access: 2 PIVs
   .
   # Code: FULL confirmed with patient
   .
   # Communication: Patient and son (on his way in today)
   .
   # Disposition: ICU for now
   .
   ICU Care
   Nutrition: clears, surgical team will manage
   Glycemic Control:
   Lines:
   18 Gauge - [**2183-9-3**] 07:13 AM
   20 Gauge - [**2183-9-3**] 08:01 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: d/c H2 blocker since not a home med and no longer acute
   setting
   Communication:  Comments: patient & son coming in today
   Code status: Full code
   Disposition: transfer to [**Hospital **] hospital today per surgery
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points: 89 yo F, [**Hospital3 22**] resident, h/o htn,
   a-fib (no coumadin, asa) p/w gs pancreatitis. S/p ercp with stent
   placement. She remains intermittently confused / delirious, worse
   overnight.
   PE:  98.3  HR 70   BP140/60  RR 17  100% 2L
   Alert and pleasant but confused, b/b rales, RR, faint m, soft,+ bs, nt,
   no edema
   Labs reviewed: lipase 177 (6000) wbc 15.9, hct 33, cr 0.6, ca 8.2, ces
   neg X 1 set, LFTS normalized
   CXs --ngtd
   CXR- improvement in hilar fullness and mild interstitial edema
   A/P: acute gs pancreatitis s/p ercp, leukocytosis (decreasing),
   delirium,  h/o a-fib
   Agree with plan to manage gs pancreatitis with antibx course (unasyn).
   She is s/p ercp with stenting and her lfts have normalized, pancreatic
   enzymes are trending down. Her renal fx and hct remain stable. Her
   leukocytosis is trending down and bandemia has resolved and she remains
   AF with ngtd on cx data.  Clarify plan for repeat ercp vs interval
   chole down the line, as per surgical team.  We have stopped her IVFs
   and are advancing her diet.  Will further optimize BP control and
   resume home regimen.  She continues to have ICU delirium that seems
   worse at night. Would begin standing zyprexa at night +  prn,
   reoriente, optimizing sleep wake schedule. Would benefit from PT
   consult.  ICU: Sq hep, pIVs, full code.  Remainder of plan as outlined
   in resident note.
   Continue to work with surgical team regarding transfer to [**Hospital 680**]
   hospital to be closer to her home at her family request.
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2183-9-5**] 01:44 PM ------